US07960394B2
2-[2-Methoxy-4-(3-pyrrolidin-1-ylpropoxy)phenyl]-3-methylpyrido[2,3-d]pyrimidin-4(3H)-one
The entitled compound was obtained according to the method of Example 77 but using 2-aminonicotinic acid, methylamine, 2-methoxy-4-hydroxybenzaldehyde and 1-(3-bromopropyl)pyrrolidinium bromide.

reactant | 2-aminonicotinic acid | NC1=C(C(=O)O)C=CC=N1 | C6H6N2O2
reactant | methylamine | CN | CH5N
reactant | 2-methoxy-4-hydroxybenzaldehyde | COC1=C(C=O)C=CC(=C1)O | C8H8O3
reactant | 1-(3-bromopropyl)pyrrolidinium bromide | [Br-].BrCCC[NH+]1CCCC1
product | 2-[2-Methoxy-4-(3-pyrrolidin-1-ylpropoxy)phenyl]-3-methylpyrido[2,3-d]pyrimidin-4(3H)-one | COC1=C(C=CC(=C1)OCCCN1CCCC1)C=1N(C(C2=C(N1)N=CC=C2)=O)C | C22H26N4O3
